US05045223
N-(4-Chlorobenzylidene)-4-chlorobenzenesulfonamide
A stirred solution consisting of 7.03 g (5.0 mmol) of 4-chlorobenzaldehyde, 9.58 g (5.0 mmol) of 4-chlorobenzenesulfonamide, 8 g of 4A molecular sieves and 0.1 g of Amberlite IR-120 in 90 mL of toluene was heated to reflux. The reaction vessel was fitted with a Dean Stark trap which was filled with 4A molecular sieves. The mixture was heated for 4 hours, at which point TLC analysis showed conversion to sulfonimine. The mixture was allowed to cool to room temperature and was filtered. Concentration of the filtrate and subsequent recrystallization of the crude product from CHCl3 -hexane gave 7.84 g (50%) of sulfonimine as a white crystalline material: IR 3090, 1598, 1582, 1553, 1321, 1084 cm1 ; 1H NMR (CDCl3, TMS, 60 MHz) & 9.02 (s, 1), 7.73 (A2B2, 4, Δ√=24 Hz, JAB =8 Hz), 7.67 (A2B2, 4, Δ√=23 Hz, JAB =9 Hz); m.p. 128.0 ° C.

reactant | 4-chlorobenzaldehyde | 5.0 mmol, 7.03 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-chlorobenzenesulfonamide | 5.0 mmol, 9.58 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorobenzylidene)-4-chlorobenzenesulfonamide | ClC1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H9Cl2NO2S
